US04842639
2-Pentyl-2,3-dihydro-1,2-benzisothiazole-7-sulfonamide-1,1-dioxide
A solution of 9.5 g of 2-pentyl-7-(propylthio-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide in 40 ml of acetic acid containing 1.3 ml of water was contacted with 7.0 ml of liquified chlorine at 10° to 15° C. and allowed to warm to 25° C. The excess chlorine was removed via a stream of nitrogen gas and the solution was poured onto ice. The resulting solid was filtered, washed with water and hexane, dried, dissolved in CH2Cl2 and contacted with 2.0 ml of liquified ammonia at -78° C. to 25° C. The mixture was added to 100 ml of 1N HCl and extracted with CH2Cl2. The extract was washed with water and brine, dried over MgSO4, concentrated and slurried in ether to give 6.35 g of the title compound as a white powder, m.p. 156°-160° C.

reactant | propylthio-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | C(CC)SN1S(C2=C(C1)C=CC=C2)(=O)=O | C10H13NO2S2
reactant | water | O | H2O
reactant | chlorine | 7.0 ml | ClCl | Cl2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-Pentyl-2,3-dihydro-1,2-benzisothiazole-7-sulfonamide-1,1-dioxide | 6.35 g | C(CCCC)N1S(C2=C(C1)C=CC=C2S(=O)(=O)N)(=O)=O | C12H18N2O4S2
